US04293713
Into 300 ml of anhydrous dichloromethane, 13.0 g (0.1 mol) of 1,3-dimethyl-1-propylurea and 12.0 g (0.1 mol) of phenylisocyanate were added and dissolved. The mixture was ice-cooled under stirring and 26.0 g (0.1 mol) of stannic chloride was added drop-wise. The reaction was then continued at a room temperature for 15 hours and the precipitate formed was separated by filtration. The precipitate thus obtained was added into a mixture of 60 ml of 20% hydrochloric acid/120 ml of chloroform and the stirring was continued until the mixture became transparent. Then the chloroform layer was separated and was washed with water and the chloroform layer was dried with anhydrous sodium sulfate. The chloroform was removed by distillation under reduced pressure and the residue thus obtained was recrystallized from ligroin to obtain 18.6 g (yield: 75%) of 1,3-dimethyl-1-propyl-5-phenylbiuret having a melting point of 63° to 64° C.

reactant | dichloromethane | 300 ml | ClCCl | CH2Cl2
reactant | 1,3-dimethyl-1-propylurea | 0.1 mol, 13.0 g | CN(C(=O)NC)CCC | C6H14N2O
reactant | phenylisocyanate | 0.1 mol, 12.0 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | hydrochloric acid | 60 ml | Cl | ClH
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1,3-dimethyl-1-propyl-5-phenylbiuret | 18.6 g, yield: 75% | CN(C(=O)N(C(=O)NC1=CC=CC=C1)C)CCC | C13H19N3O2
